US04036872
A solution of diisobutylaluminium hydride (53 g.) in dry benzene (145 ml.) was added, with rapid stirring, to a solution of 7-cyano-6-(7-hydroxyheptyl)-1,4-dioxaspiro[4,4]nonane (43.2 g.) in dry diethyl ether (432 ml.) at 10°-15° C. Stirring at ambient temperature was continued for 90 minutes and the mixture was added to 2 N aqueous acetic acid (1 liter) at a temperature lower than 15° C. The organic phase was separated and the aqueous layer was extracted with diethyl ether. The combined organic phases were washed with aqueous sodium bicarbonate, dried over sodium sulphate, the solvents removed in vacuo and the residue distilled under reduced pressure to give 7-formyl-6-(7-hydroxyheptyl)-1,4-dioxaspiro[4,4]nonane (25.3 g.), b.p. 164°-200° C.0.05 mm.Hg, νmax 1710 cm-1 , 2700 cm-1 (liquid film).

reactant | diisobutylaluminium hydride | 53 g | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 7-cyano-6-(7-hydroxyheptyl)-1,4-dioxaspiro[4,4]nonane | 43.2 g | C(#N)C1C(C2(OCCO2)CC1)CCCCCCCO | C15H25NO3
reactant | acetic acid | 2 N, 1 liter | C(C)(=O)O | C2H4O2
solvent | benzene | 145 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | 432 ml | C(C)OCC | C4H10O
product | 7-formyl-6-(7-hydroxyheptyl)-1,4-dioxaspiro[4,4]nonane | 25.3 g | C(=O)C1C(C2(OCCO2)CC1)CCCCCCCO | C15H26O4
